### PR TITLE
Signed primitive integers

### LINKED ISSUE #12109: The Int63 library is confusing
Dear Coq developers,

Native/primitive integers are a wonderful feature recently added to Coq. I start using them in projects of mine, and I have some feedback I would like to share with you. Of course, I don’t pretend I know the truth or anything. I am very open to discussing all of this.

#### Description of the problem

This is not a technical problem, but rather a discussion about certain choices that have been made with regards to the [`Int63`](https://coq.github.io/doc/master/stdlib/Coq.Numbers.Cyclic.Int63.Int63.html) library.

There are several things that I find bothering, and I guess this is a good time to bring that up.

1. `int` in Coq encodes *unsigned* integers, whereas `int` everywhere else in the world of programming languages encodes *signed* integers. This is really confusing to my opinion, and one good proof of that is, I think, reading the OCaml code implementing this, where one `int` type is equal to some `unit` type etc. From a naming perspective, I therefore believe `int` should be rename `uint` or something. 
2. Why 63 bits integers? I know that, in OCaml, primitive integers are 63 bits for a technical reason (unbox integers compatible with a garbage collector language); that being said, integers in Coq, even native integers, are not unbox. They always live at least in an ast of type `Constr.t`. So I am not sure we really benefit from having unboxed integers in this case. One may argue that 1 bit (especially when you have 64 bits in total) is not a big deal, but there are some situation where one may need to have 64 bits. For instance, if I want to implement a WebAssembly VM in Coq, which requires 64 bits integers, I cannot use `int` which feels like a loss! We could try to do some benchmark, but it feels like we could afford to use boxed, 64 bits integers for Coq to be less… OCaml-specific in this regards.
3. ~The notations are not consistent with the rest of the standard library. More specifically, `<` lives in `Prop` in the rest of the stdlib, but in `bool` for `int`.~

#### Coq Version

I believe the `Int63` module has not changed dramatically since primitive integers have been introduced.

### PR DESCRIPTION
**Pull request by ana-borges**
**Kind:** bug fix and feature

Fixes #12109

Add support for signed primitive integers: 
- [x] printing and parsing

and a new kernel function with axioms, extraction and an updated test-suite:
- [x] signed less-than and less-than-or-equal
- [x] signed compare
- [x] signed division and remainder
- [x] signed arithmetic shifts

- [x] Added / updated test-suite
- [x] Corresponding documentation was added / updated (including any warning and error messages added / removed / modified).
- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

**Comment by fakusb** [comment]
Nice. I would suggest adding each case of parsing and printing to the test suite (probably in /test-suite/output/NumberNotations.out ), this makes precise what the expected behaviour is and avoids not noticing breaking it ona accident.

**Comment by fakusb** [comment]
(In case you did not know, `cd test-suite;make clean;make output` allows to run only the output ci, which saves a lot of time compared to make test-suite on the root directory)

**Comment by proux01** [comment]
@ana-borges I finally cleaned the mess I did put in the number notations there : https://github.com/proux01/coq/tree/remove-int63-syntax-plugin The easiest for you is probably to just cherry pick the last four commits here.

File: kernel/uint63_31.ml [hunk 1]
```diff
@@ -58,6 +58,15 @@ let lt x y =
 let le x y =
   Int64.compare x y <= 0
 
+    (* signed comparison *)
+ (* we shift the arguments by 1 to the left to that the top-most bit is interpreted as a sign *)
+ (* the zero at the end doesn't change the order (it is sable by multiplication by 2) *)
```
Comment (proux01) [inline kernel/uint63_31.ml:63]:
```suggestion
 (* we shift the arguments by 1 to the left so that the top-most bit is interpreted as a sign *)
 (* the zero at the end doesn't change the order (it is stable by multiplication by 2) *)
```

File: interp/notation.ml [hunk 2]
```diff
@@ -548,11 +548,15 @@ type number_ty =
     hexadecimal : Names.inductive;
     number : Names.inductive }
 
+type pos_neg_int63_ty =
+  { int63_ty : Names.GlobRef.t;
```
[the remark this answers is not in the document]
Comment (ana-borges) [reply interp/notation.ml]: Indeed!

File: interp/constrextern.ml [hunk 3]
```diff
@@ -978,6 +978,11 @@ let rec extern inctx ?impargs scopes vars r =
   | GVar id when entry_has_global (fst scopes) || entry_has_ident (fst scopes) ->
       CAst.make ?loc (extern_var ?loc id)
 
+ | GInt i when Coqlib.has_ref "num.int63.wrap_int" ->
+     let wrap = Coqlib.lib_ref "num.int63.wrap_int" in
+     let r' = DAst.make (GApp (DAst.make (GRef (wrap, None)), [r])) in
+     extern_notations inctx scopes vars None r'
+
```
[the remark this answers is not in the document]
Comment (ana-borges) [reply interp/constrextern.ml:985]: And then remove the `| GInt i ...` from the `No_match` case? Also, should the `r` be replaced with `r'` ahead?
(I'm afraid I still don't understand this piece of code...)

[the remark this answers is not in the document]
Comment (proux01) [reply interp/constrextern.ml:985]: Sorry, I was unclear. The idea, when `r` is a `GInt` is to replace it by `wrap_int r` before calling the notation mechanism (`extern_notations`), if no notation is found (for instance when they are all deactivated by `Set Printing All`), it will raise `No_match` and things should proceed with `r` unmodified (the default printer will be run below).

[the remark this answers is not in the document]
Comment (ana-borges) [reply interp/constrextern.ml]: Ok, I believe the error doesn't happen anymore after my latest commit. But please check if this was what you had in mind.

[the remark this answers is not in the document]
Comment (proux01) [reply interp/constrextern.ml]: Looks good

**Comment by ana-borges** [comment]
Here is part of `test-suite/output/Int63Syntax.v.log`:

>  The command has indeed failed with message:
> -Cannot interpret this number as a value of type Coq.Numbers.Cyclic.Int63.PrimInt63.int
> +Cannot interpret this number as a value of type int

@proux01 which version is the desired one? And in case it is the old one, do you know how to fix it?

**Comment by proux01** [comment]
The second one is fine (according to the log `-` lines are the one from the `.out` file and `+` is the actual output).

File: test-suite/output/Sint63Syntax.out [hunk 4]
```diff
@@ -0,0 +1,66 @@
+2%sint63
+     : PrimInt63.int
```
Comment (ana-borges) [inline test-suite/output/Sint63Syntax.out:2]: Is there a way of printing `int` here instead?

File: test-suite/output/Sint63Syntax.v [hunk 5]
```diff
@@ -0,0 +1,48 @@
...
+Fail Check 0xg.
+Fail Check 0xG.
+Fail Check 00x1.
+Fail Check 0x.
+Check (PrimInt63.add 2 2).
+Fail Check 4611686018427387904.
+Fail Check -4611686018427387905.
+
+Set Printing All.
+Check 1%sint63.
```
Comment (ana-borges) [inline test-suite/output/Sint63Syntax.v:27]: Is this expected to output `1%int63` instead of `1%sint63`?

**Comment by ana-borges** [comment]
A [test](https://github.com/coq/coq/pull/13559/checks?check_run_id=1530888682) on compatibility with older versions of Coq fails:

>File "./src/Common/Coq__8_4__8_5__Compat.v", line 22, characters 0-40:
>Error:
>File not found on loadpath : int63_syntax_plugin.cmxs

This is the now unused plugin file. Should we provide a copy for compatibility reasons? Or there another way around this issue?

File: test-suite/output/Sint63Syntax.out (hunk 4 above)
Comment (proux01) [reply test-suite/output/Sint63Syntax.out:2]: Maybe using a notation. Not sure it's worth it though.

File: test-suite/output/Sint63Syntax.v (hunk 5 above)
Comment (proux01) [reply test-suite/output/Sint63Syntax.v:27]: Yes, due to te `Set Printing All` calling the default printer. Maybe the default printer should print hexadecimal to better convey the idea that this is raw data? (otherwise we may get 9223372036854775807%int63 for -1).

**Comment by proux01** [comment]
> A [test](https://github.com/coq/coq/pull/13559/checks?check_run_id=1530888682) on compatibility with older versions of Coq fails:
> 
> > File "./src/Common/Coq__8_4__8_5__Compat.v", line 22, characters 0-40:
> > Error:
> > File not found on loadpath : int63_syntax_plugin.cmxs
> 
> This is the now unused plugin file. Should we provide a copy for compatibility reasons? Or there another way around this issue?

In fact, that's not exactly a test in Coq but in one of the projects tested in the CI (fiat_parsers). We'll have to write an overlay.
Maybe @JasonGross can help (TL;DR: we are removing the `int63_syntax_plugin` (replaced by numeral notations)).

**Comment by JasonGross** [comment]
Is this targeted to 8.13 or 8.14?  I should be able to pre-emptively push a change, as I don't think we really use primitive integers at all.

**Comment by proux01** [comment]
Definitely not for 8.13, no hurry.

File: test-suite/output/Sint63Syntax.out (hunk 4 above)
Comment (ana-borges) [reply test-suite/output/Sint63Syntax.out:2]: As a user, I would prefer it. It doesn't make sense to me that unsigned ints are printed as `int` and signed ints are printed as `PrimInt.int`, specially because `PrimInt` is used in the definition of both.

File: test-suite/output/Sint63Syntax.v (hunk 5 above)
Comment (ana-borges) [reply test-suite/output/Sint63Syntax.v:27]: Actually we get `Int63.opp 1` for `-1`, which seems reasonable.

As for the positive case, we can leave it as is, but I feel like I would be confused as a user coming across this without context. Usually `Set Printing All` gives more information, and here it seems like the fact that we are printing a signed int is lost.

Comment (proux01) [reply test-suite/output/Sint63Syntax.v:27]: > Actually we get Int63.opp 1 for -1, which seems reasonable. 

Are you sure you checked `(-1)%sint63` and not `-1%sint63`?

Comment (ana-borges) [reply test-suite/output/Sint63Syntax.v:27]: Oh yeah, you are right on both counts. Huh. Then it does feel like a bigger problem. Also I wish `-1%sint63` would behave as `(-1)%sint63`, but logically I guess it can't.

**Comment by JasonGross** [comment]
Should work now, I've restarted the job

File: test-suite/output/Sint63Syntax.out (hunk 4 above)
Comment (proux01) [reply test-suite/output/Sint63Syntax.out:2]: A solution is to remove the type definition of `int` in `Sint63` (it's the same type than in `Int63`) and Require *Export* Int63 rather than just require Import it.

File: test-suite/output/Sint63Syntax.v (hunk 5 above)
Comment (proux01) [reply test-suite/output/Sint63Syntax.v:27]: Yes, that's how the priority of the scope notations work. For Set Printing All, I still think switching to hexadecimal would be a reasonable solution (like it is done for floats). The following ptch should work (around line 1130 in `interp/constrextern.ml`) once #13540 will be merged
```diff
-       (Number (NumTok.Signed.of_int_string (Uint63.to_string i)))
+       (Number NumTok.(Signed.of_bigint CHex (Z.of_int64 (Uint63.to_int64 i))))
```
(I made a little bug in `interp/numTok.ml`, so the following fix will be needed there
```diff
-    | CHex -> Z.format "0x%x" n
+    | CHex -> Z.format "%#x" n
```
)

**Comment by proux01** [comment]
Great, thank you very much @JasonGross ! (looks like floats will be the last remaining syntax plugin ;-) )

File: test-suite/output/Sint63Syntax.v (hunk 5 above)
Comment (ana-borges) [reply test-suite/output/Sint63Syntax.v:27]: Ok, agreed.

**Comment by ana-borges** [comment]
In seems that in [32 bit machines](https://github.com/coq/coq/pull/13559/checks?check_run_id=1542376657) `vm_compute` segfaults. I can reproduce it with a 32 bit opam switch, but I have no clue how to debug it. It's confusing (to me) because iirc the only thing that is different in the 32 bit case is the file `kernel/uint63_31.ml`, and regular `compute` works fine, so how can that be the problem? Any hints about how to figure this out?

**Comment by proux01** [comment]
Using gdb (run then backtrace) could help you find where the segfault happens.

**Comment by silene** [comment]
Presumably, it is because we never called `Callback.register "uint63 zero"`.

**Comment by proux01** [comment]
BTW, for the validate failure, you have to update the `v_primitive` value in `checker/values.ml` (increment it by the number of primitives you added).

**Comment by ana-borges** [comment]
> BTW, for the validate failure, you have to update the `v_primitive` value in `checker/values.ml` (increment it by the number of primitives you added).

Thanks! I thought it might be something like that, but I didn't know where to change it. By the way, why was the value of `v_primitive` 50 when there were only 48 primitives? (I've updated it to 54 since I added 4 new primitives).

**Comment by silene** [comment]
> By the way, why was the value of `v_primitive` 50 when there were only 48 primitives?

I guess that is my fault. I don't remember ever changing this value, yet I have added and removed various opcodes. (But I removed more than I added, which explains why I never noticed the issue.)

You should put he correct value, so 52 if all the values are between 0 and 51.

**Comment by proux01** [comment]
Maybe this should be pointed out in a comment on top of `cPrimitives.ml` to avoid further omissions.

**Comment by ana-borges** [comment]
I have a bizarre problem with the 32 bit arch:
```
Require Import Sint63.
Open Scope sint63_scope.
Set Printing All.
Eval compute in (1 / -1). 
     = (-0x1)%int63
     : int
```
In contrast, `vm_compute` and `native_compute` behave as expected:
```
Eval vm_compute in (1 / -1).
     = 0x7fffffffffffffff%int63
     : int
Eval native_compute in (1 / -1).
     = 0x7fffffffffffffff%int63
     : int
```
I don't really understand how `(-0x1)%int63` is even a possible output. `Check (-0x1)%int63.` just fails with `Error: Cannot interpret this number as a value of type int`, while `Check (-0x1)%sint63` outputs the expected `0x7fffffffffffffff%int63`.

The only way I've been able to see numbers of the form `(-0x...)%int63` is as the output of signed division. And in fact this is what's behind the failure of [this test](https://github.com/coq/coq/pull/13559/checks?check_run_id=1559058378). Coq can't unify, eg, `(-0x1)%int63` with `0x7fffffffffffffff%int63`.

Do you know what would need to happen in order for Coq to print `(-0x1)%int63`?

**Comment by silene** [comment]
The code for `divs` in `uint63_31.ml` is wrong. We need to pass the result to `mask63`, otherwise the sign bit stays set.

File: kernel/byterun/coq_uint63_native.h [hunk 6]
```diff
@@ -46,17 +55,26 @@
...
+#define Uint63_asr(x,y) do{ \
+    value uint63_asr_y__ = (y); \
+    if (uint63_asr_y__ < (uint64_t) 127) \
+      accu = (value)(((uint64_t)(x) >> uint63_of_value(uint63_asr_y__)) | 1); \
+    else \
+      accu = uint63_zero(); \
   }while(0)
 #define Uint63_lsl1(x) (accu = (value)((((uint64_t)(x)-1) << 1) +1))
 #define Uint63_lsr1(x) (accu = (value)(((uint64_t)(x) >> 1) |1))
+#define Uint63_asr1(x) (accu = (value)(((uint64_t)(x) >> 1) |1)) /* FIXME this is the same as asr1 */
```
Comment (ana-borges) [inline kernel/byterun/coq_uint63_native.h:77]: I have no idea how this works nor how to adapt it to do an arithmetic shift instead of a logical one. Can someone help me please?

Comment (proux01) [reply kernel/byterun/coq_uint63_native.h:77]: OCaml GC uses the least significant bit to distinguish integer values from adresses (pointers). Adresses being aligned, they always end up with 0 so integers are shifted left by 1 bit to put a 1 at the end (x is represented by 2x+1). So arithmetic shift right of x should be represented by (arithmetic shift right of x) | 1 (to ensure the least significant bit is forced to 1).

Comment (proux01) [reply kernel/byterun/coq_uint63_native.h:77]: So, in practice replacing `uint64_t` by `int64_t` should be fine.

Comment (silene) [reply kernel/byterun/coq_uint63_native.h:77]: I would go for the same trick we used for signed division. First you do a left shift of `(uint64_t)x` by one, then you cast to `int64_t`, then you do a right shift by `uint63_of_value(uint63_asr_y__) + 1`, then you mask to clear the sign bit.

Comment (silene) [reply kernel/byterun/coq_uint63_native.h:77]: > So, in practice replacing uint64_t by int64_t should be fine.

Oops, I had not seen your message. Your solution is much better.

File: kernel/byterun/coq_uint63_native.h [hunk 7]
```diff
@@ -64,17 +64,16 @@
   else \
     accu = uint63_zero(); \
   }while(0)
-/* FIXME this definition is the same as lsr for now */
 #define Uint63_asr(x,y) do{ \
     value uint63_asr_y__ = (y); \
-    if (uint63_asr_y__ < (uint64_t) 127) \
-      accu = (value)(((uint64_t)(x) >> uint63_of_value(uint63_asr_y__)) | 1); \
+    if (uint63_asr_y__ < (int64_t) 127) \
```
Comment (silene) [inline kernel/byterun/coq_uint63_native.h:69]: This is wrong. By comparing `y` to an unsigned bound, this test ensures that `y` is between 0 and 62. If you switch to a signed bound, `y` is still guaranteed to be smaller than 63, but it can now be negative, which leads to undefined behavior later.

By the way, this also means that the `asr.v` testsuite file should contain some shift by negative values, to make sure that 0 is properly returned in that case.

File: kernel/byterun/coq_uint63_native.h [hunk 8]
```diff
@@ -64,17 +64,16 @@
...
+      accu = (value)(((int64_t)(x) >> uint63_of_value(uint63_asr_y__)) | 1); \
```
Comment (silene) [inline kernel/byterun/coq_uint63_native.h:70]: I just checked the C standard. This code actually implementation-defined for negative `x`. What saves us somehow is that OCaml is currently compiled only on platforms that have the behavior we want for negative `x`. (Either that or there is a bug in OCaml.)

File: kernel/byterun/coq_uint63_native.h (hunk 7 above)
Comment (ana-borges) [reply kernel/byterun/coq_uint63_native.h:69]: Nice catch, thanks. It should be safe to change that line back to `if (uint63_asr_y__ < (uint64_t) 127) \` then, I guess.

I will add such a test.

File: kernel/byterun/coq_interp.c [hunk 9]
```diff
@@ -1454,6 +1454,44 @@ value coq_interprete
         Next;
       }
 
+      Instruct(CHECKDIVSINT63) {
+        print_instr("CHEKDIVSINT63");
+        CheckInt2();
+        /* spiwack: a priori no need of the NON_STANDARD_DIV_MOD flag
+                    since it probably only concerns negative number.
+                    needs to be checked at this point */
```
Comment (gares) [inline kernel/byterun/coq_interp.c:1462]: Is this comment really wanted?

File: kernel/uint63_63.ml [hunk 10]
```diff
@@ -179,6 +200,11 @@ let compare (x:int) (y:int) =
   else if y > x then -1
   else 0
 
+let compares (x : int) (y : int) =
+  if x > y then 1
+  else if y > x then -1
+  else 0
+
```
Comment (gares) [inline kernel/uint63_63.ml:207]: I'm surely missing something, but I recall `y - x` being faster in OCaml that this.

File: kernel/byterun/coq_interp.c (hunk 9 above)
Comment (ana-borges) [reply kernel/byterun/coq_interp.c:1462]: I guess there's no reason for it to appear two times.

File: kernel/uint63_63.ml (hunk 10 above)
Comment (ana-borges) [reply kernel/uint63_63.ml:207]: I just copy-pasted and adapted the code of `compare`. Maybe both could be changed to `y - x`?

Comment (silene) [reply kernel/uint63_63.ml:207]: > I recall `y - x` being faster in OCaml that this.

Faster, certainly, but correct, definitely not. Consider `max_int` and `min_int` for instance. The latter is smaller, yet their difference is negative due to wrapping.

That said, it might be better to let the compiler find the best way to compile that comparison:
```ocaml
let compares (x : int) (y : int) =
  Int.compare x y
```

(But truth be told, the generated code for `Int.compare` is not that great. Its main advantage is to be branch-free, and thus independent of the branch predictor.)

Comment (gares) [reply kernel/uint63_63.ml:207]: I don't know if the "spec" is to return 1, 0 or -1 exactly here. Usually, any positive, 0, any negative is OK.

As I said, I'm no expert here, but I was looking at the code and this snippet seemed odd to me.

Comment (ana-borges) [reply kernel/uint63_63.ml:203]:
```
let compares (x : int) (y : int) =
  Int.compare x y
```
This is now the implementation.

File: doc/changelog/10-standard-library/13559-primitive_integers.rst [hunk 11]
```diff
@@ -0,0 +1,5 @@
+- **Added:**
+  Library for signed primitive integers, Sint63.
+  (`#13559 <https://github.com/coq/coq/pull/13559>`_,
+  fixes `#12109 <https://github.com/coq/coq/issues/12109>`_,
+  by Ana Borges, Guillaume Melquiond and Pierre Roux).
```
Comment (jfehrle) [inline doc/changelog/10-standard-library/13559-primitive_integers.rst:5]: Hmm, is it usual to have 2 changelog descriptions for a single PR?

File: doc/sphinx/language/core/primitive.rst [hunk 12]
```diff
@@ -8,15 +8,20 @@ Primitive Integers
...
-For instance, equality of two primitive integers can be decided using the :g:`Int63.eqb` function,
-declared and specified as follows:
+This type can be understood as representing either unsigned or signed integeres,
+depending on which module is imported or, more generally, which scope is open.
+:g:`Int63` and :g:`int63_scope` refer to the unsigned version, while :g:`Sint63`
+and :g:`sint63_scope` refer to the signed one.
+
+The :g:`PrimInt63` module declares the available operators over this type.
+For instance, equality of two unsigned primitive integers can be decided using
+the :g:`Int63.eqb` function, declared and specified as follows:
```
Comment (jfehrle) [inline doc/sphinx/language/core/primitive.rst:24]:
```suggestion
The :g:`PrimInt63` module declares the available operators for this type.
For instance, equality of two unsigned primitive integers can be determined using
the :g:`Int63.eqb` function, declared and specified as follows:
```

File: doc/sphinx/language/core/primitive.rst [hunk 13]
```diff
@@ -25,7 +30,9 @@ declared and specified as follows:
 
    Axiom eqb_correct : forall i j, (i == j)%int63 = true -> i = j.
 
-The complete set of such operators can be obtained looking at the :g:`Int63` module.
+The complete set of such operators can be found in the :g:`PrimInt63` module.
+The specifications and notations reside in the :g:`Int63` and :g:`Sint63`
```
Comment (jfehrle) [inline doc/sphinx/language/core/primitive.rst:34]:
```suggestion
The specifications and notations are in the :g:`Int63` and :g:`Sint63`
```

Seems like the more common way to put this.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 14]
```diff
@@ -1744,6 +1744,12 @@ Number notations
          sorts, primitive integers, primitive floats, primitive arrays and type
          constants for primitive types) will be considered for printing.
 
+         .. note::
+            As a particular case, :n:`@qualid__type` can be :n:`PrimInt63.int`,
+            in which case :n:`@qualid__print` takes as input :n:`PrimInt63.int_wrapper`
+            instead of :n:`PrimInt63.int`. See below for an
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1750]:
```suggestion
            For example, :n:`@qualid__type` can be :n:`PrimInt63.int`,
            in which case :n:`@qualid__print` takes :n:`PrimInt63.int_wrapper` as input
            instead of :n:`PrimInt63.int`. See below for an
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 15]
```diff
@@ -2070,6 +2076,23 @@ The following errors apply to both string and number notations:
...
       Check 3.
 
+.. _example-number-notation-primitive-int:
+
+.. example:: Number Notation for primitive integers
+
+   The following example demonstrate the particular case of primitive
+   integers :n:`PrimInt63.int` as :n:`@qualid__type`. This is the way
+   parsing and printing of primitive integers are actually implemented
+   in `PrimInt63.v`.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:2086]:
```suggestion
   This shows the use of the primitive
   integers :n:`PrimInt63.int` as :n:`@qualid__type`. This is how
   parsing and printing of primitive integers are implemented
   in `PrimInt63.v`.
```

The `..

**Review by jfehrle — APPROVED** [review]
Reviewed wording of the doc.  A few minor suggestions.

Perhaps you would squash the 41 commits before this is merged?  I expect that level of granularity won't be of interest once the PR is merged.

**Comment by jfehrle** [comment]
@gares any idea who should review this/be the assignee?  1-2 main reviewers should be sufficient.

**Comment by gares** [comment]
I think @maximedenes @pi8027 @ppedrot should give a look when they have time.

File: doc/changelog/10-standard-library/13559-primitive_integers.rst (hunk 11 above)
Comment (ana-borges) [reply doc/changelog/10-standard-library/13559-primitive_integers.rst:5]: I was hoping you (the devs) would tell me. I couldn't decide on whether to put it in the kernel or the stdlib part, so I wrote both. Which do you think makes more sense to keep?

**Comment by ana-borges** [comment]
> Reviewed wording of the doc. A few minor suggestions.

Thanks! I've updated the changes to the reference manual accordingly.
 
> Perhaps you would squash the 41 commits before this is merged? I expect that level of granularity won't be of interest once the PR is merged.

Sure. I'll do that after all the reviews.

File: doc/changelog/10-standard-library/13559-primitive_integers.rst (hunk 11 above)
Comment (jfehrle) [reply doc/changelog/10-standard-library/13559-primitive_integers.rst:5]: If people using signed primitive ints would generally use them through the new library, I think I'd show them under the standard library (while mentioning the kernel additions).  I think the change log is primarily meant to inform users.

File: doc/sphinx/language/core/primitive.rst [hunk 16]
```diff
@@ -8,15 +8,20 @@ Primitive Integers
...
+(excerpt from the :g:`PrimInt63` module):
 
 .. coqdoc::
 
    Primitive int := #int63_type.
 
-This type is equipped with a few operators, that must be similarly declared.
-For instance, equality of two primitive integers can be decided using the :g:`Int63.eqb` function,
-declared and specified as follows:
+This type can be understood as representing either unsigned or signed integeres,
```
Comment (silene) [inline doc/sphinx/language/core/primitive.rst:17]: integers

File: kernel/byterun/coq_interp.c [hunk 17]
```diff
@@ -1529,6 +1571,20 @@ value coq_interprete
         }
       }
 
+      Instruct(CHECKASRINT63CONST1) {
```
Comment (silene) [inline kernel/byterun/coq_interp.c:1574]: Where does this opcode come from?

Is it just because of `LSLINT63CONST1` and `LSRINT63CONST1` or is there some rationale to it? I don't know where these two are coming from either, so I intend to remove them in a subsequent pull request. So, no point in adding `ASTIN63CONST1` just o remove it later.

File: theories/Numbers/Cyclic/Int63/Sint63.v [hunk 18]
```diff
@@ -0,0 +1,140 @@
+(************************************************************************)
+(*         *   The Coq Proof Assistant / The Coq Development Team       *)
+(*  v      *         Copyright INRIA, CNRS and contributors             *)
+(* <O___,, * (see version control and CREDITS file for authors & dates) *)
+(*   \VV/  **************************************************************)
+(*    //   *    This file is distributed under the terms of the         *)
+(*         *     GNU Lesser General Public License Version 2.1          *)
+(*         *     (see LICENSE file for the text of the license)         *)
+(************************************************************************)
+(*            Benjamin Gregoire, Laurent Thery, INRIA, 2007             *)
```
Comment (silene) [inline theories/Numbers/Cyclic/Int63/Sint63.v:10]: I think there is anything left from the original code, so this line could be removed.

File: theories/Numbers/Cyclic/Int63/Sint63.v [hunk 19]
```diff
@@ -0,0 +1,140 @@
...
+    to_Z x <> to_Z min_int \/ to_Z y <> (-1)%Z ->
+  to_Z (x / y) = Z.quot (to_Z x) (to_Z y).
+
+Axiom mods_spec : forall x y, to_Z (x mod y) = Z.rem (to_Z x) (to_Z y).
+
+Axiom ltsb_spec : forall x y, (x <? y)%sint63 = true <-> to_Z x < to_Z y.
+
+Axiom lesb_spec : forall x y, (x <=? y)%sint63 = true <-> to_Z x <= to_Z y.
+
+(* TODO why the detour in Int63.v? *)
```
Comment (silene) [inline theories/Numbers/Cyclic/Int63/Sint63.v:81]: What does this TODO refer to?

File: doc/changelog/10-standard-library/13559-primitive_integers.rst (hunk 11 above)
Comment (ana-borges) [reply doc/changelog/10-standard-library/13559-primitive_integers.rst:5]: Ok, thanks.

File: kernel/byterun/coq_interp.c (hunk 17 above)
Comment (ana-borges) [reply kernel/byterun/coq_interp.c:1574]: > Is it just because of LSLINT63CONST1 and LSRINT63CONST1?

Yes. I was also confused about its use. I'll delete it then.

File: theories/Numbers/Cyclic/Int63/Sint63.v (hunk 19 above)
Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:81]: Oh yeah, I meant to ask about that. Here is what's done in `Int63.v` for `compare`:
```
Primitive compare := #int63_compare.
Definition compare_def x y :=
  if x <? y then Lt
  else if (x =? y) then Eq else Gt.
Notation compare := compare (only parsing).
Notation "n ?= m" := (compare n m) (at level 70, no associativity) : int63_scope.
Axiom compare_def_spec : forall x y, compare x y = compare_def x y.
Lemma compare_spec x y : compare x y = (φ x ?= φ y)%Z. Proof. ... Qed.
```

I guess I don't get the point of defining `compare_def`, postulating it to be extensionally equal to the primitive `compare`, and then proving essentially that `compare_def` coincides with the corresponding function in `Z`. Why not just postulating that the primitive `compare` coincides with the expected `Z` function? That's what I did in `Sint63.v`, but I wanted to know whether there was something I missed.

Now that I wrote the previous paragraph I wonder if the point was to be able to use / simplify `compare` directly on primitive ints without going to `Z` first?

Comment (silene) [reply theories/Numbers/Cyclic/Int63/Sint63.v:81]: That does not make sense to me either. Even in the long forgotten times of retroknowledge for `Int31`, the definitional "axiom" was `(φ x ?= φ y)%Z`. So, I am not sure why `Int63` ended up using this convoluted axiom. I suppose we should swap them at some point (i.e., make `compare_spec` the axiom and `compare_def_spec` the lemma).

Anyway, your axiom is the sensible one, so you can get rid of the TODO.

File: doc/changelog/10-standard-library/13559-primitive_integers.rst [hunk 20]
```diff
@@ -0,0 +1,5 @@
+- **Added:**
+  Library for signed primitive integers, Sint63. The following operations were added to the kernel: division, remainder, comparision functions, and arithmetic shift right. Everything else works the same for signed and unsigned ints.
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/13559-primitive_integers.rst:2]:
```suggestion
  Library for signed primitive integers, Sint63. The following operations were added to the kernel: division, remainder, comparison functions, and arithmetic shift right. Everything else works the same for signed and unsigned ints.
```

**Comment by proux01** [comment]
Congrats for the green CI! (windows64 failure seems unrelated)

BTW, as a potential user of signed integers, I would probably expect lemmas stating that the signed `to_Z` yields a value in the range [-2^62, 2^62-1] and specifications of addition and multiplication wrt this signed `to_Z`. Don't know how hard those are to prove.

File: checker/values.ml [hunk 21]
```diff
@@ -236,7 +236,7 @@ let v_template_universes =
   v_tuple "template_universes" [|List(Opt v_level);v_context_set|]
 
 let v_primitive =
-  v_enum "primitive" 50 (* Number of "Primitive" in Int63.v and PrimFloat.v *)
+  v_enum "primitive" 54 (* Number of "Primitive" in Int63.v and PrimFloat.v *)
```
Comment (proux01) [inline checker/values.ml:239]: In passing, the comment can probably be improved as something along the line "number of constructors of the CPrimitives.t type".

File: plugins/syntax/int63_syntax.ml [hunk 22]
```diff
@@ -20,8 +20,8 @@ open Libnames
 
 (*** Constants for locating int63 constructors ***)
 
-let q_int63 = qualid_of_string "Coq.Numbers.Cyclic.Int63.PrimInt63.int"
-let q_id_int63 = qualid_of_string "Coq.Numbers.Cyclic.Int63.PrimInt63.id_int"
+let q_uint63 = qualid_of_string "Coq.Numbers.Cyclic.Int63.PrimInt63.int"
+let q_id_uint63 = qualid_of_string "Coq.Numbers.Cyclic.Int63.PrimInt63.id_int"
```
Comment (proux01) [inline plugins/syntax/int63_syntax.ml:24]: No need for this change anymore since signed int is now just a notation alias to PrimInt63.int.

Comment (proux01) [reply plugins/syntax/int63_syntax.ml:24]: Nevermind, this files disappears.

File: plugins/syntax/number.ml [hunk 23]
```diff
@@ -381,22 +383,41 @@ let elaborate_to_post_via env sigma ty_name ty_ind l =
...
+
+let locate_global_inductive allow_params qid =
+  try locate_global_inductive_with_params allow_params qid
   with Not_found -> Smartlocate.global_inductive_with_alias qid, []
 
+let locate_global_inductive_or_int63 allow_params qid =
+  try TargetInd (locate_global_inductive_with_params allow_params qid)
+  with Not_found ->
+    let int63n = "num.int63.type" in
+    let sint63n = "num.sint63.type" in
```
Comment (proux01) [inline plugins/syntax/number.ml:412]:
```suggestion
```
no more need for this since signed int is now just a notation alias to int

File: plugins/syntax/number.ml [hunk 24]
```diff
@@ -381,22 +383,41 @@ let elaborate_to_post_via env sigma ty_name ty_ind l =
...
+    if allow_params && Coqlib.has_ref int63n
+       && GlobRef.equal (Smartlocate.global_with_alias qid) (Coqlib.lib_ref int63n)
+    then TargetPrim (Nametab.path_of_global (Coqlib.lib_ref int63n), [])
+    else if allow_params && Coqlib.has_ref sint63n
+            && GlobRef.equal (Smartlocate.global_with_alias qid) (Coqlib.lib_ref sint63n)
+    then TargetPrim (Nametab.path_of_global (Coqlib.lib_ref sint63n), [])
```
Comment (proux01) [inline plugins/syntax/number.ml:418]:
```suggestion
```
same

File: theories/Numbers/Cyclic/Int63/Sint63.v [hunk 25]
```diff
@@ -0,0 +1,137 @@
...
+(*         *     (see LICENSE file for the text of the license)         *)
+(************************************************************************)
+
+Require Import ZArith.
+Import Znumtheory.
+Require Export Int63.
+Require Import Lia.
+
+Declare Scope sint63_scope.
+Register int as num.sint63.type.
```
Comment (proux01) [inline theories/Numbers/Cyclic/Int63/Sint63.v:17]:
```suggestion
```

File: plugins/syntax/int63_syntax.ml (hunk 22 above)
Comment (proux01) [reply plugins/syntax/int63_syntax.ml:24]: BTW, why is it still there?

**Comment by ana-borges** [comment]
> Congrats for the green CI! (windows64 failure seems unrelated)

:)
 
> BTW, as a potential user of signed integers, I would probably expect lemmas stating that the signed `to_Z` yields a value in the range [-2^62, 2^62-1] and specifications of addition and multiplication wrt this signed `to_Z`. Don't know how hard those are to prove.

Agreed. I'll look into it.

File: plugins/syntax/int63_syntax.ml (hunk 22 above)
Comment (ana-borges) [reply plugins/syntax/int63_syntax.ml:24]: No idea, I'll just remove it completely.

File: theories/Numbers/Cyclic/Int63/Sint63.v [hunk 26]
```diff
@@ -0,0 +1,246 @@
...
+  φ min_int%int63 <= φ x%int63 -> φ x%int63 mod wB <> 0.
+Proof.
+  intros ltminx; rewrite Z.mod_small by apply Int63.to_Z_bounded.
+  now intros eqx0; rewrite eqx0 in ltminx.
+Qed.
+
+(** Specification of operations that coincide on signed and unsigned ints *)
+
+Lemma add_spec (x y : int) :
+  (x + y)%sint63 = of_Z ((to_Z x + to_Z y) mod wB).
```
Comment (ana-borges) [inline theories/Numbers/Cyclic/Int63/Sint63.v:173]: @proux01
> as a potential user of signed integers, I would probably expect lemmas stating that the signed to_Z yields a value in the range [-2^62, 2^62-1] and specifications of addition and multiplication wrt this signed to_Z. Don't know how hard those are to prove.

I proved `bounded_to_Z` for the `Sint63.to_Z` and these specs. I'm not sure how useful they are in practice. Did you have something different in mind?

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: (I've just simplified the proofs)

Comment (proux01) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: For unsigned integers, `add_spec` looks like `to_Z (x + y)%int63 = (to_Z x + to_Z y) mod wB`, you may want something closer (maybe giving a new to wB)?

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: I tried to think of something, but this is the best I came up with. The form `(to_Z x + to_Z y) mod _` doesn't work because it is always positive.

> (maybe giving a new to wB)
What do you mean?

Comment (proux01) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: Maybe using `Z.rem` instead of `Z.modulo`?
@silene would you have a better idea?

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: I don't know how to deal with overflow. Consider `max_int + 2`. From the unsigned perspective, this is `2^62 + 1`, while from the signed perspective it is... what? There's no sane operation in `Z` that receives `2^62 - 1` and `2` as input and then outputs `- (2^62 - 1)` (ie, `to_Z (max_int + 2)`).

Comment (proux01) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: What about ((. + 2^62) mod wB) - 2^62 ?
In absence of overflow, the user could use Z_mod_small to remove the mod and the + and - should then cancel easily enough.

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: Nice! I stand corrected. That leads to
```
Lemma add_spec2 (x y : int) :
  to_Z (x + y)%sint63 = (to_Z x + to_Z y + φ min_int%int63) mod wB - φ min_int%int63.
```
I feel like `φ min_int%int63` deserves a name. Do you know why `2^63` is called `wB`?

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: Or maybe even the `((. + 2^62) mod wB) - 2^62` construction should have a name. Hmm...

Comment (proux01) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: > Do you know why 2^63 is called wB?

No idea, maybe @vbgl, @maximedenes or @bgregoir would know?

> maybe even the ((. + 2^62) mod wB) - 2^62 construction should have a name

Maybe something like `overflow`? (I'm bad at naming)

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: What about `check_overflow`? `add_sub_<name of 2^62>`? `modadd_sub_<2^62>`? Uf, I don't like either of them xP

As for `2^62`, I figure something along the lines of `wB` would be good, like `sW` ("s" for "signed", although I have no clue what the "b" and the "W" stand for so that's probably silly. Maybe `swB`? Bah.)

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:176]: Should we keep `(x + y)%sint63 = of_Z ((to_Z x + to_Z y) mod wB)` as a lemma too? Maybe call it `add_of_Z` or something?

Comment (silene) [reply theories/Numbers/Cyclic/Int63/Sint63.v:202]: That is the so-called "centered modulo" (or cmod for short). You could define the whole theory of centered modulo (compatibility with addition, multiplication, and so on) and then use it for your specification. But that seems overkill. Actually, even your current approach seems overkill.

I think it would be much more useful to have lemmas that talk about the bounded behavior. For example,

```coq
Lemma mul_bounded (x y : int) :
  to_Z min_int <= to_Z x * to_Z <= to_Z max_int ->
  to_Z (x * y) = to_Z x * to_Z y.
```

These lemmas leave out the overflow behavior, and thus cannot be used in the most general case. But if users really need it, then they presumably have some very specific application in mind, for which the completely-specified lemmas would not be that useful. They are likely to go back to the axioms anyway.

By the way, there is nothing specific to signed integers here, the same lemmas could be added to unsigned integers too. Having lemmas that do not ever rely on modulo is a great quality-of-life improvement. (I am talking from experience with the corresponding axiomatic in Why3.)

Comment (proux01) [reply theories/Numbers/Cyclic/Int63/Sint63.v:202]: Indeed, sounds like a much better spec for a vast majority of users.

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:202]: Yeah, that one does look more useful. Since I already proved the others though, why not keep them all?

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v]: I've now cleaned up the names of these results and added a couple more (mostly by looking through Int63.v and finding results to be restated in terms of `Sint63.to_Z`).

Is there anything else you'd like to see?

File: theories/Numbers/Cyclic/Int63/Sint63.v [hunk 27]
```diff
@@ -0,0 +1,417 @@
...
+  else
+    (- φ (- i)%int63)%Z.
+
+(* NOTE this is actually exactly the same as Int63.of_Z *)
+Definition of_Z z :=
+  match z with
+  | Zpos p => of_pos p
+  | Z0 => 0%sint63
+  | Zneg p => (- (of_pos p))%sint63
+  end.
```
Comment (silene) [inline theories/Numbers/Cyclic/Int63/Sint63.v:73]: Since they are the same, it seems better to just remove this definition.

File: theories/Numbers/Cyclic/Int63/Sint63.v [hunk 28]
```diff
@@ -0,0 +1,417 @@
...
+  to_Z (- x) = - to_Z x.
+Proof.
+  rewrite to_Z_min, to_Z_max; intros bound.
+  now rewrite opp_spec, cmod_small; [>| lia].
+Qed.
+
+(** Relationship with of_Z *)
+
+Lemma add_of_Z (x y : int) :
+  (x + y)%sint63 = of_Z ((to_Z x + to_Z y) mod wB).
```
Comment (silene) [inline theories/Numbers/Cyclic/Int63/Sint63.v:326]: Is `mod wB` actually useful in this lemma and the following ones? I would expect `(x + y)%sint63 = of_Z (to_Z x + to_Z y)` to hold just as well, if I am not missing something.

Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:326]: You're absolutely right.

File: theories/Numbers/Cyclic/Int63/Sint63.v (hunk 27 above)
Comment (ana-borges) [reply theories/Numbers/Cyclic/Int63/Sint63.v:73]: Yeah, I'll remove it.

**Review by silene — APPROVED** [review]
As far as I am concerned (i.e., the arithmetic and the VM), the changes are fine and welcome. Thus it is now mostly a matter of merging the spurious commits to get a better history and of rebasing on top of master to clear the (trivial) conflicts.

**Comment by proux01** [comment]
Same for the printing/parsing of constants.

Note that an option to squashing everything into a gigantic commit would be to use multiple smaller commits. This requires more work but can be useful both for PR reviewers and for latter search for bugs, with git bisect for instance. A few rules of thumb could be:
* commits should be relatively small and self contained
* all commits should compile (not checked by the CI, so can be a bit painful to ensure)
* a commit can fix an already present bug but not one introduced in the current PR (if there are two commits A and B, the latter being "fix bug introduced in A", they should be squashed together)

**Comment by ana-borges** [comment]
> Note that an option to squashing everything into a gigantic commit would be to use multiple smaller commits. This requires more work but can be useful both for PR reviewers and for latter search for bugs, with git bisect for instance.

You're absolutely right, but I'm afraid I got lazy... :(

I'm guessing we need more reviewers, right? Shall we ping someone, or what is the usual process?

**Comment by proux01** [comment]
This PR needs an assignee, maybe @maximedenes or @vbgl since you were involved in the implem of unsigned primitive integers?

**Review by SkySkimmer — APPROVED** [review]

**Comment by SkySkimmer** [comment]
Looks OK, already approved by vm-maintainers, the other changes seem not very threatening.
Let's have a bench in the name of our new machines, then assuming no surprises I'll merge.
https://gitlab.com/coq/coq/-/jobs/966006873

**Comment by SkySkimmer** [comment]
~~~
┌─────────────────────────────┬─────────────────────────┬───────────────────────────────────────┬───────────────────────────────────────┬─────────────────────────┬─────────────────┐
│                             │      user time [s]      │              CPU cycles               │           CPU instructions            │  max resident mem [KB]  │   mem faults    │
│                             │                         │                                       │                                       │                         │                 │
│                package_name │     NEW      OLD  PDIFF │            NEW             OLD  PDIFF │            NEW             OLD  PDIFF │     NEW      OLD  PDIFF │ NEW  OLD  PDIFF │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│      coq-mathcomp-ssreflect │   49.90    50.05  -0.30 │   135463857580    135773502160  -0.23 │   180743619096    180723883676   0.01 │  514284   516696  -0.47 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                   coq-flocq │  142.30   142.56  -0.18 │   393849964732    393100395067   0.19 │   506184044217    506233072255  -0.01 │  828252   828180   0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                    coq-hott │  320.20   320.25  -0.02 │   861072651454    857884316684   0.37 │  1447399659098   1447431634968  -0.00 │  661336   661484  -0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│              coq-verdi-raft │ 1160.98  1159.55   0.12 │  3229402801352   3223681733484   0.18 │  4707216149677   4705824299554   0.03 │  907644   905588   0.23 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│       coq-mathcomp-solvable │  164.64   164.42   0.13 │   457550903743    456572650841   0.21 │   675587704612    675556691842   0.00 │  686384   659244   4.12 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                 coq-coqutil │   59.31    59.20   0.19 │   163326794803    163396787555  -0.04 │   212029183677    211556591739   0.22 │  525056   525412  -0.07 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                  coq-geocoq │ 1335.84  1332.83   0.23 │  3714155956635   3704265741861   0.27 │  5649056768351   5648531982765   0.01 │ 1007344   996768   1.06 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│               coq-fourcolor │ 2445.48  2439.82   0.23 │  6814650007311   6800606435658   0.21 │ 12215960920964  12210033283220   0.05 │  736720   736572   0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│       coq-mathcomp-fingroup │   46.28    46.15   0.28 │   127903917238    127494976852   0.32 │   185122114751    185128483471  -0.00 │  482912   483184  -0.06 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│          coq-mathcomp-field │  217.34   216.70   0.30 │   603643080758    603380740086   0.04 │   951258672364    951236534070   0.00 │  666248   668184  -0.29 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│             coq-lambda-rust │ 1156.86  1153.40   0.30 │  3216368627502   3207500705554   0.28 │  4801222525686   4799801244443   0.03 │ 1101316  1113788  -1.12 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│               coq-fiat-core │   98.50    98.20   0.31 │   278088250185    276537439097   0.56 │   389694951913    388571839000   0.29 │  486796   485256   0.32 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│               coq-perennial │ 4931.47  4915.12   0.33 │ 13723155617468  13682618800679   0.30 │ 21508843768122  21502526060769   0.03 │ 3047236  3082532  -1.15 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│            coq-math-classes │  199.65   198.95   0.35 │   554795114603    552117487936   0.48 │   777485128655    777557089255  -0.01 │  497396   497644  -0.05 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│             coq-fiat-crypto │ 4734.91  4717.80   0.36 │ 13137946646659  13091798533290   0.35 │ 23813390730662  23818154152733  -0.02 │ 2279556  2278532   0.04 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                coq-rewriter │  675.27   672.65   0.39 │  1871197226801   1864841430154   0.34 │  2948066260622   2945793334061   0.08 │ 1107176  1105584   0.14 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│      coq-mathcomp-character │  148.12   147.51   0.41 │   411642344321    410506168786   0.28 │   599159073877    599063672254   0.02 │  708464   707052   0.20 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                         coq │  495.17   492.98   0.44 │  1376046228580   1371827025409   0.31 │  1913238277813   1906684986467   0.34 │  571916   573736  -0.32 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│        coq-mathcomp-algebra │  131.51   130.92   0.45 │   364654674941    363808520381   0.23 │   491094013872    491099046674  -0.00 │  541336   537692   0.68 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│ coq-rewriter-perf-SuperFast │  740.07   736.37   0.50 │  2058291141920   2049000256558   0.45 │  3327776672851   3328541448525  -0.02 │ 1108600  1106640   0.18 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│            coq-fiat-parsers │  594.33   591.23   0.52 │  1656033014467   1648896247285   0.43 │  2617508659959   2618403999374  -0.03 │ 3287144  3284552   0.08 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                   coq-color │  474.56   471.98   0.55 │  1316801086881   1311704530878   0.39 │  1725055783604   1724306139836   0.04 │ 1111568  1120164  -0.77 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                    coq-corn │ 1427.99  1420.10   0.56 │  3965711361756   3943655393924   0.56 │  5926811756017   5926890800689  -0.00 │  881920   883408  -0.17 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                coq-coqprime │   76.43    75.98   0.59 │   208284886609    207713686158   0.27 │   305242507941    304565202330   0.22 │  763416   760656   0.36 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                 coq-bignums │   54.74    54.41   0.61 │   149658521419    149341985227   0.21 │   207628486003    207657456563  -0.01 │  473432   475088  -0.35 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│       coq-engine-bench-lite │  324.63   322.25   0.74 │   911475938355    905344455100   0.68 │  1716224764993   1716184359932   0.00 │ 3124608  3124504   0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                coq-bedrock2 │  196.26   194.70   0.80 │   540953225060    537720583799   0.60 │   920294829056    919310083832   0.11 │  778124   778844  -0.09 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│              coq-coquelicot │   66.89    66.35   0.81 │   181099148798    180541103828   0.31 │   238750359882    237941605622   0.34 │  560924   564376  -0.61 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│      coq-mathcomp-odd-order │ 1026.36  1017.73   0.85 │  2855751932770   2833193264223   0.80 │  4690017721821   4690098638153  -0.00 │  981236   981604  -0.04 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│  coq-performance-tests-lite │ 1533.21  1518.42   0.97 │  4274736237708   4232717020297   0.99 │  7303271336371   7306552838090  -0.04 │ 2433184  2433144   0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                 coq-unimath │ 3885.56  3838.33   1.23 │ 10795928187144  10670783318388   1.17 │ 21116211349023  21109105351520   0.03 │ 1109168  1119788  -0.95 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                   coq-verdi │   97.50    96.26   1.29 │   265990537972    264321740260   0.63 │   386714460038    385737962317   0.25 │  555668   550276   0.98 │   0    0    nan │
└─────────────────────────────┴─────────────────────────┴───────────────────────────────────────┴───────────────────────────────────────┴─────────────────────────┴─────────────────┘
~~~

**Comment by ana-borges** [comment]
Thank you @SkySkimmer! Regarding your last comment, I can't tell whether this counts as surprising or not. Is there anything I should do?

**Comment by proux01** [comment]
I would say non, that's the expected result: this PR has no performance impact (1% is within the noise range).

**Comment by SkySkimmer** [comment]
The unimath slowdown is a bit concerning. The top slowdowns are 
~~~
Bicategories/PseudoFunctors/Display/Compositor.v.html	243	16.133	17.101	.968	6
Bicategories/PseudoFunctors/Display/StrictCompositor.v.html	243	16.482	17.396	.914	5
Algebra/GroupAction.v.html	594	25.482	26.348	.866	3
Bicategories/DisplayedBicats/FiberBicategory/FiberBicategory2.v.html	2163	15.657	16.51	.853	5
SubstitutionSystems/LiftingInitial_alt.v.html	623	39.084	39.729	.645	1
Bicategories/DisplayedBicats/FiberBicategory/FiberBicategory1.v.html	2298	3.809	4.418	.609	15
Bicategories/DisplayedBicats/Examples/Algebras.v.html	342	11.378	11.887	.509	4
SubstitutionSystems/LiftingInitial.v.html	841	38.336	38.796	.460	1
Bicategories/DisplayedBicats/DispBuilders.v.html	28	16.752	17.205	.453	2
Bicategories/DisplayedBicats/Examples/MonadKtripleBiequiv.v.html	711	19.976	20.41	.434	2
~~~
They seem to be mostly Qed lines. 

AFAIK unimath doesn't use any primitive integers so I don't know what the cause is, maybe it's spurious.

Unless someone complains I'll merge tomorrow.

**Comment by SkySkimmer** [comment]
PS You need to rebase because of #13868

**Comment by proux01** [comment]
> They seem to be mostly Qed lines.
> 
> AFAIK unimath doesn't use any primitive integers so I don't know what the cause is, maybe it's spurious.

This PR only modifies primitive integers and their parsing/printing so it's indeed hard to imagine any impact here.

**Comment by SkySkimmer** [comment]
@coqbot: merge now

**Comment by proux01** [comment]
Thanks @SkySkimmer for taking care of this.
Congrat and thanks @ana-borges for the great work.

**Comment by ana-borges** [comment]
Thank you @SkySkimmer, @proux01, and @silene for your essential help with this!

Should I open another PR to rename int63 to uint63 as discussed at the CUDW?

**Comment by proux01** [comment]
> Should I open another PR to rename int63 to uint63 as discussed at the CUDW?

That would be great. Since Coq commits to deprecate for at least two versions before removing, int63 will need to be deprecated. The easiest solution is probably to keep a dummy Int63.v with notations, as was done for https://github.com/coq/coq/blob/master/theories/Init/Numeral.v when it was renamed  https://github.com/coq/coq/blob/master/theories/Init/Number.v
